US07678920B2
C) 3-(6-Chloropyridin-3-yl)-2-methylpropanoic acid
The solid 2-[(6-chloropyridin-3-yl)methyl]-2-methylmalonic acid (8.70 g, 37.5 mmol) in a 500 mL round bottom flask was immersed in an oil bath heated to 185° C. As the solid melted carbon dioxide evolution occurred. After heating for 30 min, the reaction was deemed complete. Upon cooling there was obtained an amber gum (6.8 g, 95% yield). [M+H]+=200, 202; IR: 1703 (C═O). The product was about 85% pure and was used for the next step reaction directly.

reactant | 2-[(6-chloropyridin-3-yl)methyl]-2-methylmalonic acid | 37.5 mmol, 8.70 g | ClC1=CC=C(C=N1)CC(C(=O)O)(C(=O)O)C | C10H10ClNO4
reactant | carbon dioxide | C(=O)=O | CO2
product | 3-(6-Chloropyridin-3-yl)-2-methylpropanoic acid | 6.8 g, 95% yield | ClC1=CC=C(C=N1)CC(C(=O)O)C | C9H10ClNO2
